US06900318B1
7) Ethyl (2S)-3-amino-2-(naphthalene-1-sulfonylamino)propionate Hydrochloride
147.2 g (0.5 mol) of (2S)-3-amino-2-(naphthalene-1-sulfonylamino)propionic acid were suspended in 1 l of ethanol and hydrogen chloride gas was introduced into the mixture for about 2 h whereupon the temperature increased to about 35° C. and a clear solution was obtained. Then the mixture was evaporated in vacuo in a rotary evaporator. The residue was dissolved in hot ethanol and diisopropyl ether was added until precipitation of the product started. The product was allowed to crystallize overnight at room temperature. The title hydrochloride was filtered off, washed with diisopropyl ether and dried in vacuo. Yield: 148 g (83%).

reactant | (2S)-3-amino-2-(naphthalene-1-sulfonylamino)propionic acid | 0.5 mol, 147.2 g | NC[C@@H](C(=O)O)NS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C13H14N2O4S
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 1 l | C(C)O | C2H6O
product | Ethyl (2S)-3-amino-2-(naphthalene-1-sulfonylamino)propionate Hydrochloride | Cl.NC[C@@H](C(=O)OCC)NS(=O)(=O)C1=CC=CC2=CC=CC=C12 | InChI=1S/C15H18N2O4S.ClH/c1-2-21-15(18)13(10-16)17-22(19,20)14-9-5-7-11-6-3-4-8-12(11)14;/h3-9,13,17H,2,10,16H2,1H3;1H/t13-;/m0./s1
